US06245328B1
21.7 mmol of n-butyllithium (1.59 molar in n-hexane, 13.6 ml) were added at -78 C to a solution of (4R,5R)-4,5-bis(hydroxymethyl)-2,2-dimethyl-1,3-dioxolane (3.32 g, 20.5 mmol) in 60 ml of tetrahydrofuran ((4R,5R)-4,5-bis(hydroxymethyl)-2,2-dimethyl-1,3-dioxolane was prepared according to J. Org. Chem. 33 (1968), page 2171). After stirring for 10 minutes, a solution of p-toluenesulfonyl chloride (4 g, 21 mmol) in 20 ml of tetrahydrofuran which was cooled to −78° C. was added. After stirring at −78° C. for 15 minutes, the mixture was warmed to 20° C. and poured into 200 ml of concentrated sodium chloride solution. The organic phase was separated off and the aqueous phase was extracted twice with 50 ml of ethyl acetate. The combined organic phases were dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on 400 g of silica gel using ethyl acetate and n-hexane in the weight ratio 60:40 as eluent. 74.6% of (4R,5R)-[5-hydroxymethyl-2,2-dimethyl-1,3-dioxolan-4-yl]methyl p-toluenesulfonate were obtained ([α]D19=+11.80 (c=1.88 in trichloromethane); cf. J. Org. Chem. 55 (1990), page 4417: [α]D21=+11.30 (c=2.70 in trichloromethane)).

reactant | n-butyllithium | 21.7 mmol, 1.59 molar, 13.6 ml | C(CCC)[Li]
reactant | (4R,5R)-4,5-bis(hydroxymethyl)-2,2-dimethyl-1,3-dioxolane | 20.5 mmol, 3.32 g | OC[C@H]1OC(O[C@@H]1CO)(C)C | C7H14O4
reactant | p-toluenesulfonyl chloride | 21 mmol, 4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4R,5R)-[5-hydroxymethyl-2,2-dimethyl-1,3-dioxolan-4-yl]methyl p-toluenesulfonate | 74.6% | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(O[C@@H]1CO)(C)C)C | C14H20O6S
